US07485661B2
Preparation of 3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[3,2-c]pyrazole-5-carboxylic acid (57)
A mixture of methyl 3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[3,2-c]pyrazole-5-carboxylate (2.3 g, 6 mmol) and aqueous sodium hydroxide (12.5 ml of a 2N solution)in MeOH (50 ml) was heated for 8 h at 50° C. After cooling the methanol was removed by evaporation under reduced pressure, water (5 ml) was added, and the pH was adjusted at 7 by adding aqueous hydrochloric acid. The precipitate was separated by filtration, washed with water and ethyl ether, and dryed at 50° C. under vacuum. 2.2 g of title compound were obtained. LC-MS, chromatographic method A, Rt 2.06, [M+H]+ 373.

reactant | methyl 3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[3,2-c]pyrazole-5-carboxylate | 6 mmol, 2.3 g | N1(CCOCC1)C1=CC=C(C(=O)NC=2C3=C(NN2)C=C(S3)C(=O)OC)C=C1 | C18H18N4O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | MeOH | 2N, 50 ml | CO | CH4O
product | 3-[(4-morpholin-4-ylbenzoyl)amino]-1H-thieno[3,2-c]pyrazole-5-carboxylic acid | 2.2 g | N1(CCOCC1)C1=CC=C(C(=O)NC=2C3=C(NN2)C=C(S3)C(=O)O)C=C1 | C17H16N4O4S
